US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid was condensed with 2,4-difluoroaniline to yield 2-[(2,4-difluorophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
product | 2-[(2,4-difluorophenyl)amino]phenylacetic acid | FC1=C(C=CC(=C1)F)NC1=C(C=CC=C1)CC(=O)O | C14H11F2NO2
